US09085555B2
C. [3-Acetyl-6-(4-methoxy-benzylamino)-pyrrolo[2,3-b]pyridin-1-yl]-acetic acid tert-butyl ester
Tert-butyl bromoacetate (27 μL, 0.18 mmol) was added to a suspension of 1-[6-(4-methoxy-benzylamino)-1H-pyrrolo[2,3-b]pyridin-3-yl]-ethanone (0.17 mmol) and potassium carbonate (27.5 mg, 0.20 mmol) in CH3CN (0.33 mL) and THF (0.33 mL). The reaction mixture was stirred at RT for 7 h. Potassium carbonate (27.5 mg, 0.20 mmol) and tert-butyl bromoacetate (27 μL, 0.18 mmol) were added again and stirring was continued overnight, this operation was repeated the next day. The suspension was filtered, the filtrate concentrated under reduced pressure and the crude residue was purified by flash column chromatography on silica gel (CH2Cl2 to CH2Cl2/MeOH 98:2). TLC, Rf (CH2Cl2/MeOH 9:1)=0.9; MS (UPLC/MS): 410.2 [M+H]+, 819.4 [2M+H]+, 841.3 [2M+Na]+, 454.1 [M+HCOO]−; tR (HPLC conditions f): 2.30 min.

reactant | Tert-butyl bromoacetate | 0.18 mmol, 27 μL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | 1-[6-(4-methoxy-benzylamino)-1H-pyrrolo[2,3-b]pyridin-3-yl]-ethanone | 0.17 mmol | COC1=CC=C(CNC2=CC=C3C(=N2)NC=C3C(C)=O)C=C1 | C17H17N3O2
reactant | potassium carbonate | 0.20 mmol, 27.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Potassium carbonate | 0.20 mmol, 27.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 0.18 mmol, 27 μL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | CH3CN | 0.33 mL | CC#N | C2H3N
solvent | THF | 0.33 mL | C1CCOC1 | C4H8O
product | [3-Acetyl-6-(4-methoxy-benzylamino)-pyrrolo[2,3-b]pyridin-1-yl]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C=2C1=NC(=CC2)NCC2=CC=C(C=C2)OC)C(C)=O)=O | C23H27N3O4
